US07425634B2
(51c) 3-ethyl-2-methylpyridine
First, 2-methyl-3-((trimethylsilyl)ethynyl)pyridine (22.6 g, 119 mmol) was dissolved in tetrahydrofuran (dehydrated)(200 ml). To the mixture, tetrabutyl ammonium fluoride (1N tetrahydrofuran solution) (150 ml, 150 mmol) was added. The mixture was stirred at room temperature for one hour. The reaction mixture was partitioned by ethyl acetate and a saturated aqueous ammonium chloride solution. The aqueous layer was extracted with ethyl acetate. The organic layers were combined and washed twice with a saturated aqueous ammonium chloride solution, dried over anhydrous magnesium sulfate, and distilled by a rotary evaporator. To the obtained fraction, 10% palladium/carbon (900 mg) was added and stirred in a hydrogen atmosphere at room temperature for 2 hours. The reaction mixture was filtrated through anhydrous magnesium sulfate and cerite. To the filtrate, 10% palladium/carbon (810 mg) was added and the mixture was stirred in a hydrogen atmosphere at room temperature for 4 hours. The reaction mixture was filtrated through anhydrous magnesium sulfate and celite and thereafter the filtrate was concentrated to obtain the title compound (7.25 g, yield: 51.1%) as a colorless oil.

reactant | 2-methyl-3-((trimethylsilyl)ethynyl)pyridine | 119 mmol, 22.6 g | CC1=NC=CC=C1C#C[Si](C)(C)C | C11H15NSi
reactant | tetrabutyl ammonium fluoride | 150 mmol, 1N, 150 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-ethyl-2-methylpyridine | 7.25 g, yield: 51.1% | C(C)C=1C(=NC=CC1)C | C8H11N
